US04343942
1-Hydroxy-2-Ethylbenzimidazole-3-Oxide
To a mixture containing 1-nitropropane (10.7 g., 0.12 moles), benzofuroxan (13.6 g., 0.10 moles) and tetrahydrofuran (50 ml.) is added dropwise diethylamine (8.7 g., 0.12 moles). The reaction temperature rises almost to reflux on addition of amine. Upon completion, the mixture is allowed to cool and then sit overnight.

reactant | 1-nitropropane | 0.12 moles, 10.7 g | [N+](=O)([O-])CCC | C3H7NO2
reactant | benzofuroxan | 0.10 moles, 13.6 g | C1=CC2=NO[N+](=C2C=C1)[O-] | C6H4N2O2
reactant | diethylamine | 0.12 moles, 8.7 g | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-Hydroxy-2-Ethylbenzimidazole-3-Oxide | ON1C(=[N+](C2=C1C=CC=C2)[O-])CC | C9H10N2O2
